US04317819
(i) N,N'-Bis-[1-[[2-[[5-[(dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]amino]-2-nitroethenyl]-1,12-dodecanediamine
A mixture of N,N-dimethyl-5-[[[2-[(1-methylthio-2-nitroethenyl)amino]ethyl]thio]methyl]-2-furanmethanamine (2 g) and 1,12-diaminododecane (0.6 g) was heated at 100° for 3 hours. The oily residue was chromatographed (silica/methanol-0.88 ammonia, 79:1) to give an oil which solidified on trituration with ether giving the title compound (1.77 g) mp. 74°-76°.

reactant | N,N-dimethyl-5-[[[2-[(1-methylthio-2-nitroethenyl)amino]ethyl]thio]methyl]-2-furanmethanamine | 2 g | CN(CC=1OC(=CC1)CSCCNC(=C[N+](=O)[O-])SC)C | C13H21N3O3S2
reactant | 1,12-diaminododecane | 0.6 g | NCCCCCCCCCCCCN | C12H28N2
solvent | ether | CCOCC | C4H10O
product | N,N'-Bis-[1-[[2-[[5-[(dimethylamino)methyl]-2-furanylmethyl]thio]ethyl]amino]-2-nitroethenyl]-1,12-dodecanediamine | 1.77 g | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NCCCCCCCCCCCCNC(=C[N+](=O)[O-])NCCSCC=1OC(=CC1)CN(C)C | C36H62N8O6S2
